US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-acetyl-3-(2,6-dimethylanilino)propionic acid and methyl 4-(p-anisidino)butyrate and suitable processing produces methyl N-[N-acetyl-3-(2,6-dimethylanilino)propionyl]-4-(p-anisidino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-acetyl-3-(2,6-dimethylanilino)propionyl]-4-(p-anisidino)butyric acid (M.P. 90° to 92°).

reactant | N-acetyl-3-(2,6-dimethylanilino)propionic acid | C(C)(=O)N(C1=C(C=CC=C1C)C)CCC(=O)O | C13H17NO3
reactant | methyl 4-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OC | C12H17NO3
product | methyl N-[N-acetyl-3-(2,6-dimethylanilino)propionyl]-4-(p-anisidino)butyrate | C(C)(=O)N(C1=C(C=CC=C1C)C)CCC(=O)N(C1=CC=C(OC)C=C1)CCCC(=O)OC | C25H32N2O5
